* Z:\home\jodh\piezo_matlab\spice\peh.asc
V1 N008 0 SINE(0 {Veq} {f} 0 0 0 0)
R1 N019 N013 {Req}
L1 N008 N013 {Leq}
C1 N027 N019 {Ceq}
C2 N027 0 {Cp}
D1 N027 N030 {Diode}
Q1 N030 N032 N039 0 {npn}
D2 N033 N032 {Diode}
D4 N037 N036 {Diode}
Q2 N033 N027 N034 0 {pnp}
Q3 N036 N027 N035 0 {npn}
L2 N039 0 {Li} Rser={Rsw}
C3 N034 0 {C1}
L3 N038 0 {Li} Rser={Rsw}
Q4 N031 N037 N038 0 {pnp}
D3 N031 N027 {Diode}
D5 N027 N028 {Diode}
D6 0 N028 {Diode}
D7 N029 N027 {Diode}
D8 N029 0 {Diode}
C4 N028 N029 {Crect}
R4 N028 N029 {Rload}
R8 N009 N015 10
C14 N025 0 {C1}
Q5 N020 N009 N025 0 {pnp}
Q6 N016 N021 N026 0 {npn}
L5 N026 0 {Li} Rser={Rsw}
Q7 N017 N022 N026 0 {pnp}
Q8 N023 N009 N024 0 {npn}
C15 N024 0 {C1}
R10 N009 N014 10
D19 N009 N010 {Diode}
D20 0 N010 {Diode}
D21 N011 N009 {Diode}
D22 N011 0 {Diode}
C16 N010 N011 {Crect}
R9 N010 N011 {Rload}
V3 N007 0 SINE(0 {Veq} {f} 0 0 0 0)
R7 N018 N012 {Req}
L4 N007 N012 {Leq}
C12 N009 N018 {Ceq}
C13 N009 0 {Cp}
D23 N041 N040 {Diode}
D24 0 N040 {Diode}
D25 N042 N041 {Diode}
D26 N042 0 {Diode}
C17 N040 N042 {Crect}
R12 N040 N042 {Rload}
V2 N044 0 SINE(0 {Veq} {f} 0 0 0 0)
R5 N046 N045 {Req}
L6 N044 N045 {Leq}
C5 N041 N046 {Ceq}
C6 N041 0 {Cp}
D13 N015 N025 {Diode}
D31 N020 N021 {Diode}
D32 N009 N016 {Diode}
D33 N017 N009 {Diode}
D34 N022 N023 {Diode}
D35 N024 N014 {Diode}
V4 N084 0 SINE(0 {Veq} {f} 0 0 0 0)
R6 N086 N085 {Req}
L7 N084 N085 {Leq}
C7 Vprim N086 {Ceq}
C8 Vprim 0 {Cp}
D9 N002 N001 {Diode}
D10 0 N001 {Diode}
D11 N003 N002 {Diode}
D12 N003 0 {Diode}
C11 N001 N003 {Crect}
R14 N001 N003 {Rload}
V5 N004 0 SINE(0 {Veq} {f} 0 0 0 0)
R15 N006 N005 {Req}
L9 N004 N005 {Leq}
C18 N002 N006 {Ceq}
C19 N002 0 {Cp}
C22 N041 N048 {C1}
R17 N048 0 {Rtrig}
L11 N041 N047 {Li}
R18 N047 N049 {Rsw}
M1 N057 N067 0 0 Si5515_N
M2 N058 N067 0 0 AO6608_P
D15 N058 N049 {Diode}
C23 N048 0 {C6}
D14 N041 N066 {Diode}
D17 N065 N041 {Diode}
C24 N065 0 {C4}
C25 N066 0 {C5}
D16 N049 N057 {Diode}
R13 N067 0 1e6
L8 Vprim 0 1
L10 Vstore N092 10
XU1 0 N048 N066 N065 N067 AD795
R20 Vstore N092 {Rload}
V7 N087 0 SINE(0 {Veq} {f} 0 0 0 0)
R21 N089 N088 {Req}
L12 N087 N088 {Leq}
C10 N090 N089 {Ceq}
C20 N090 0 {Cp}
C21 N091 N090 100p
R22 N091 0 100k
D18 0 N091 1N4148
L13 N091 N093 47µ
R23 N095 N094 1e6
C26 N094 0 {Crect}
R24 N094 0 {Rload}
M3 N093 N095 0 0 BSS84
Q9 N095 N090 0 0 BC858B
V8 N097 0 SINE(0 {Veq} {f} 0 0 0 0)
R25 N099 N098 {Req}
L14 N097 N098 {Leq}
C27 N100 N099 {Ceq}
C28 N100 0 {Cp}
L15 N101 N100 47m
XM4 N101 N102 0 NMOS_SSM3K35AFS
XM5 0 N102 0 NMOS_SSM3K35AFS
D27 0 N096 {Diode}
D28 N101 N096 {Diode}
D29 N103 N101 {Diode}
D30 N103 0 {Diode}
C29 N096 N103 {Crect}
R26 N096 N103 {Rload}
C30 N108 N097 {Cdrv}
R27 N108 0 {Rdrv}
A1 N105 0 0 0 0 N106 0 0 BUF
R28 N107 N106 {Rrc1}
C31 N107 0 {Crc1}
A2 0 N107 0 N105 0 N109 0 0 AND
A3 0 N115 0 N106 0 N110 0 0 AND
R29 N115 N105 {Rrc2}
C32 N115 0 {Crc2}
A4 0 N109 N110 0 0 N111 0 0 AND
A5 0 N111 N113 0 0 N112 0 0 AND
A6 N112 0 0 0 0 N102 0 0 BUF
C33 N114 N112 {Carf}
R30 N114 0 {Rarf}
A7 N114 0 0 0 0 N113 0 0 BUF
V9 N104 0 5
R31 N105 0 1e6
XU3 N108 0 N104 0 N105 LT1001
V6 N052 0 SINE(0 {Veq} {f} 0 0 0 0)
R16 N054 N053 {Req}
L16 N052 N053 {Leq}
C9 N043 N054 {Ceq}
C34 N043 0 {Cp}
R19 N043 N051 10k
C35 N059 0 {C1}
Q10 N060 N043 N059 0 {pnp}
D37 N051 N059 {Diode}
D36 N060 N061 {Diode}
D38 N043 N055 {Diode}
Q11 N055 N061 N068 0 {npn}
C36 N069 N068 {Crect}
R32 N069 N068 {Rload}
L17 N079 N083 {Li}
R33 N083 0 {Rsw}
D39 N056 N043 {Diode}
Q12 N056 N062 N069 0 {pnp}
D40 N069 N079 {Diode}
D41 N079 N068 {Diode}
D42 N062 N063 {Diode}
Q13 N063 N043 N064 0 {npn}
D43 N064 N050 {Diode}
R34 N043 N050 10k
C37 N064 0 {C1}
V10 N076 0 SINE(0 {Veq} {f} 0 0 0 0)
R35 N078 N077 {Req}
L18 N076 N077 {Leq}
C38 N070 N078 {Ceq}
C39 N070 N080 {C1}
R36 N080 N072 1
M6 N082 N074 0 0 NMOS
D44 N075 N082 {Diode}
L19 N070 N075 {Li} Rser={Rsw}
D45 N070 N073 {Diode}
D46 0 N073 {Diode}
D47 N081 N070 {Diode}
D48 N081 0 {Diode}
C41 N073 N081 {Crect}
R38 N073 N081 {Rload}
V11 N071 0 2
XU2 NC_16 NC_17 NC_18 NC_19 NC_20 NC_21 NC_22 NC_23 LTC1540
C42 N070 0 {Cp}
C40 N035 0 {C1}
D49 N027 N034 {Diode}
D50 N035 N027 {Diode}
.model D D
.lib C:\users\jodh\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\jodh\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\jodh\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1.025 1 uic
.param Rload=5.994843e+04
.param Crect=1uF
.param Rsw= 84
.param C1=1.9800e-08
.param Li=0.0470
* .step param C1 list 1n 10n 20n 45n\n.step param Li list 0.047 0.1 0.5 0.01 1\n.step dec param Rload 0.1k 100meg 3
* *Use old model\n.param Leq = 6.797433e+01\n.param Req = 5.196815e+08\n.param Ceq = 5.791988e-07\n.param Veq = 7.973054e+05\n.param f = 42\n.param Cp = 3.364591e-07
* *Use new model\n.param Leq = 2.953846e-08\n.param Req = 6.191716e-01\n.param Ceq = 2.112500e-07\n.param Veq = 2.752084e+01\n.param f = 42\n.param Cp = 1.252091e-07
* .include component_sweep.lib
.model 1 ako:TIP31C
.model 2 ako:TIP32C
.model 3 ako:BAT54
.param npn = 1
.param pnp = 2
.param Diode = 3
.include equiv_model.lib
.include other_models.lib
* .include large_sweep.lib
* .include lowpow_sweep.lib
* .include combine_sweep.lib
* .model 1 ako:BSS4130A\n.model 2 ako:BSS5130A\n.model 3 ako:MBR0520L\n \n.param npn = 1\n.param pnp = 2\n.param Diode = 3
.param Rtrig = 10e6
.param Ctrig = 22n
.param C4 = 4.7u
.param C5 = 4.7u
.param C6 = 10n
.include tlv3691.lib
K1 L8 L10 1
.inc SSM3K35AFS_LTspice_20190314.mod
.param Cdrv=10n
.param Rdrv=100k
.param Crc1=4.7n
.param Crc2=4.7n
.param Rrc1=84k
.param Rrc2=84k
.param Carf=22n
.param Rarf=100k
.param Rpd=10Meg
.param Cbyp=100n
.lib ADI1.lib
.lib LTC.lib
.backanno
.end
